US04661501
A mixture of 10 g of 2-(4-methoxyphenyl)-2-methyl-3-butanone, 33.7 g of 3-phenoxybenzaldehyde, 80 ml of methanol and 4.0 g of KOH was stirred at 40° C. for two hours, and then treated in the same manner as described in (a) of (1) of Synthesis Example 1 to give 25 g of 1-(3-phenoxyphenyl)-4-(methoxyphenyl)-4-methyl-1-penten-3-one.

reactant | 2-(4-methoxyphenyl)-2-methyl-3-butanone | 10 g | COC1=CC=C(C=C1)C(C)(C(C)=O)C | C12H16O2
reactant | 3-phenoxybenzaldehyde | 33.7 g | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | KOH | 4.0 g | [OH-].[K+]
reactant | methanol | 80 ml | CO | CH4O
product | 1-(3-phenoxyphenyl)-4-(methoxyphenyl)-4-methyl-1-penten-3-one | 25 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)C=CC(C(C)(C)C1=C(C=CC=C1)OC)=O | C25H24O3
